US05283251
To a solution of benzyl 4-(3-indolyl)butyrate (33.70 g) in dichloromethane (400 ml) were added triethylamine (30 ml), 4-dimethylaminopyridine (1.22 g) and 3-nitrobenzoyl chloride (30.0 g). After refluxed for 16 hours, 3-nitrobenzoyl chloride (10.5 g) and triethylamine (5 ml) were added to the mixture. The mixture was allowed to reflux for 19 hours and 3-dimethylaminopropylamine (15 ml) was added at 0° C. The mixture was washed with diluted hydrochloric acid (200 ml ×2) and water (200 ml×4) and dried over magnesium sulfate. The solvent was removed in vacuo to give a solid of benzyl 4-[1-(3-nitrobenzoyl)indol-3-yl]butyrate (47.61 g).

reactant | benzyl 4-(3-indolyl)butyrate | 33.70 g | N1C=C(C2=CC=CC=C12)CCCC(=O)OCC1=CC=CC=C1 | C19H19NO2
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 30.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 3-nitrobenzoyl chloride | 10.5 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-dimethylaminopropylamine | 15 ml | CN(CCCN)C | C5H14N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
product | benzyl 4-[1-(3-nitrobenzoyl)indol-3-yl]butyrate | 47.61 g | [N+](=O)([O-])C=1C=C(C(=O)N2C=C(C3=CC=CC=C23)CCCC(=O)OCC2=CC=CC=C2)C=CC1 | C26H22N2O5
